US04617314
To a solution of 6 g of (-)-2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxylic acid [[α]D =-17.04° (dimethylformamide, c=1)] in a mixed solvent of 55 ml of dimethylformamide and 55 ml of acetone is added 5.9 g of triethylamine and the whole is stirred. The solution is cooled to 15° C., and 2.7 g of ethyl chlorocarbonate is added dropwise for 10 minutes. After stirring at room temperature for 40-45 minutes, 7.5 g of (-)-2-aminomethyl-1-ethylpryrrolidine is added and the reactant is stirred at room temperature for 20 minutes and allowed to stand overnight. Excess triethylamine and acetone are distilled off under diminished pressure and the residue obtained is poured with stirring into 500-600 ml of water. Precipitated crystals are collected by suction filtration, washed with water and dried. The filtrate, aqueous layer is extracted with ethyl acetate three times and the extract layer is washed with water and dried. Ethyl acetate is distilled off under reduced pressure to afford crude crystals. Both the crude crystals are combined and recrystallized from ethyl acetate to give crystals of N-(1-ethyl-2-pyrrolidinylmethyl)-2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxamide, m.p. 155°-156° C., [α]D =-64.671° (dimethylformamide, c=1), which is an optically active compound.

reactant | (-)-2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxylic acid | 6 g | CC1OC2=C(C1)C=C(C=C2C(=O)O)S(N)(=O)=O | C10H11NO5S
reactant | dimethylformamide | 55 ml | CN(C=O)C | C3H7NO
reactant | acetone | 55 ml | CC(=O)C | C3H6O
reactant | ethyl chlorocarbonate | 2.7 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | triethylamine | 5.9 g | C(C)N(CC)CC | C6H15N
solvent | water | 500-600 ml | O | H2O
product | N-(1-ethyl-2-pyrrolidinylmethyl)-2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxamide | C(C)N1C(CCC1)CNC(=O)C1=CC(=CC=2CC(OC21)C)S(N)(=O)=O | C17H25N3O4S
